US04065477
cyclizing said 2-benzoyl-6-nitrobenzoic acid in concentrated sulfuric acid to form 1-nitroanthraquinone and recovering the same therefrom.

reactant | 2-benzoyl-6-nitrobenzoic acid | C(C1=CC=CC=C1)(=O)C1=C(C(=O)O)C(=CC=C1)[N+](=O)[O-] | C14H9NO5
solvent | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | 1-nitroanthraquinone | [N+](=O)([O-])C1=CC=CC=2C(C3=CC=CC=C3C(C12)=O)=O | C14H7NO4
